US04738957
2.0 g of 3,16α-dihydroxy-1,3,5(10)-estratrien-17-one is reacted with valeric anhydride under the reaction conditions described in Example 2(a) and purified, thus obtaining 1.1 g of 3,16α-divaleryloxy-1,3,5(10)-estratrien-17-one.

reactant | 3,16α-dihydroxy-1,3,5(10)-estratrien-17-one | 2.0 g | OC1=CC=2CC[C@H]3[C@@H]4C[C@H](C([C@@]4(C)CC[C@@H]3C2C=C1)=O)O | C18H22O3
reactant | valeric anhydride | C(CCCC)(=O)OC(CCCC)=O | C10H18O3
product | 3,16α-divaleryloxy-1,3,5(10)-estratrien-17-one | 1.1 g | C(CCCC)(=O)OC1=CC=2CC[C@H]3[C@@H]4C[C@H](C([C@@]4(C)CC[C@@H]3C2C=C1)=O)OC(CCCC)=O | C28H38O5
